US05055586
Process of claim 2 wherein 6-methyl-3-(1-[4-nitrophenoxy]tridecyl)-7H-1,2,4-triazolo[3,4-b]-[1,3,4]thiadiazine] is reacted with acetic anhydride, and the acylated intermediate thereby produced is reacted with HCl in the presence of hypophosphorous acid to produce 6-methyl-3-[1-(4-nitrophenoxy)tridecyl]-1H-pyrazolo-[5,1-c]-1,2,4-triazole.

reactant | 6-methyl-3-(1-[4-nitrophenoxy]tridecyl)-7H-1,2,4-triazolo[3,4-b]-[1,3,4]thiadiazine | CC1=NN2C(SC1)=NN=C2C(CCCCCCCCCCCC)OC2=CC=C(C=C2)[N+](=O)[O-] | C24H35N5O3S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | Cl | ClH
reactant | hypophosphorous acid | [PH2](=O)O | H3O2P
product | 6-methyl-3-[1-(4-nitrophenoxy)tridecyl]-1H-pyrazolo-[5,1-c]-1,2,4-triazole | CC1=NN2C(NN=C2C(CCCCCCCCCCCC)OC2=CC=C(C=C2)[N+](=O)[O-])=C1 | C24H35N5O3
